US06642389B2
a] [rac]-2-Ethoxy-3-{2-methyl-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenyl}-propionic acid ethyl ester
A suspension of 400 mg of 2Z-ethoxy-3-{2-methyl-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenyl}-acrylic acid ethyl ester and 98 mg of Pd/C (10%) in 8 ml of MeOH, 2 ml of THF and 0.5 ml of AcOH was hydrogenated at 22° C./1 bar overnight. The suspension was filtered, the filtrate evaporated and dried to give 380 mg (95%) of the title compound as colourless oil.

reactant | 2Z-ethoxy-3-{2-methyl-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenyl}-acrylic acid ethyl ester | 400 mg | C(C)OC(/C(=C/C1=C(C=C(C=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1)C)/OCC)=O | C26H29NO5
solvent | MeOH | 8 ml | CO | CH4O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | AcOH | 0.5 ml | CC(=O)O | C2H4O2
catalyst | Pd/C | 98 mg | [Pd] | Pd
product | [rac]-2-Ethoxy-3-{2-methyl-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenyl}-propionic acid ethyl ester | 380 mg, 95% | C(C)OC(C(CC1=C(C=C(C=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1)C)OCC)=O | C26H31NO5
